US06255496B1
A mixture of 2-bromoethanol (6.08 g, 48.7 mmol), dodecanethiol (9.86 g, 48.7 mmol) and potassium carbonate (11 g) in dry N,N-dimethylformamide (100 ml) was stirred at 22° C. for 10 h. The reaction mixture was then diluted with toluene (400 ml) washed with water and dried (magnesium sulfate). The solvent was evaporated under reduced pressure and the residue was filtered through a silica gel pad (toluene -ethyl acetate 95:5) and distilled under vacuum to give 9.18 g (77%) of 2-(dodecylthio)ethanol as a clear oil which solidified on standing: b.p. 100-105° C./0,01 torr (bulb to bulb distillation, air bath temperature); m.p. 31-32° C.

reactant | 2-bromoethanol | 48.7 mmol, 6.08 g | BrCCO | C2H5BrO
reactant | dodecanethiol | 48.7 mmol, 9.86 g | C(CCCCCCCCCCC)S | C12H26S
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(dodecylthio)ethanol | 9.18 g, 77% | C(CCCCCCCCCCC)SCCO | C14H30OS
